US07285558B2
5{-7-(cyclopropylmethyl)-5-methyl-2[-(5-methyl-1H-indol-3-yl)methyl]4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-N,1-dimethyl-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-{7-(cyclopropylmethyl)-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid and methylamine using diethyl cyanophosphonate as a coupling reagent Mass: 500.25 (M+H).

reactant | 5-{7-(cyclopropylmethyl)-5-methyl-2-[(5-methyl-1H-indol-3-yl)methyl]4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | C1(CC1)CN1C(N(C(C=2C1=NN(C2C2=CC(=CN2C)C(=O)O)CC2=CNC1=CC=C(C=C21)C)=O)C)=O | C26H26N6O4
reactant | methylamine | CN | CH5N
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | 5{-7-(cyclopropylmethyl)-5-methyl-2[-(5-methyl-1H-indol-3-yl)methyl]4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-N,1-dimethyl-1H-pyrrole-3-carboxamide | C1(CC1)CN1C(N(C(C=2C1=NN(C2C2=CC(=CN2C)C(=O)NC)CC2=CNC1=CC=C(C=C21)C)=O)C)=O | C27H29N7O3
